US07332508B2
To a solution of 4-(hydroxymethyl)piperidine-1-carboxylic acid tert-butyl ester (9.0 g, 42 mmol) in acetonitril (125 mL) was added triethylamine (5.5 g, 54 mmol) followed by dropwise addition of methanesulfonyl chloride (5.7 g, 50 mmol). When addition was complete the mixture was stirred overnight. The mixture was filtered and the solvent was evaporated. The residue was dissolved in ethyl acetate (100 mL) and the organic solution was washed with water (2×10 mL) and brine. The organic phase was dried (MgSO4) and the solvent was evaporated to give a residue that was dissolved in absolute ethanol (250 mL). Potassium cyanide (8.2 g, 125 mmol) was added and the mixture was heated at reflux overnight. The reaction mixture was allowed to cool to ambient temperature, filtered and the solvent was evaporated. The residue was dissolved in diethyl ether (200 mL) and the organic solution was washed with water (2×20 mL) and then dried (MgSO4) in the presence of activated carbon. The mixture was filtered and the solvent was evaporated to give 9.2 g of 4-(cyanomethyl)piperidine-1-carboxylic acid tert-butyl ester. 1H NMR (400 MHz, CDCl3) δ 1.20-1.33 (m, 2H), 1.46 (s, 9H), 1.77-1.88 (m, 3H), 2.32 (d, 2H), 2.66-2.78 (m, 2H), 4.10-4.23 (m, 2H).

reactant | 4-(hydroxymethyl)piperidine-1-carboxylic acid tert-butyl ester | 42 mmol, 9.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | triethylamine | 54 mmol, 5.5 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 50 mmol, 5.7 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Potassium cyanide | 125 mmol, 8.2 g | [C-]#N.[K+]
solvent | acetonitril | 125 mL | C(C)#N | C2H3N
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 4-(cyanomethyl)piperidine-1-carboxylic acid tert-butyl ester | 9.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC#N | C12H20N2O2
